US05591862
According to the method described for Reference Example 25, 5-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]-1-pentanol was allowed to react with phosphorus tribromide to give 5-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]pentyl bromide. Recrystallization from ether-hexane gave colorless needles, m.p.58°-59° C.

reactant | 5-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]-1-pentanol | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=C1)CCCCCO | C22H25NO3
reactant | phosphorus tribromide | P(Br)(Br)Br | Br3P
product | 5-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]pentyl bromide | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=C1)CCCCCBr | C22H24BrNO2
